US08497264B2
To a suspension of tetraethoxytitanium (3.40 g, 14.93 mmol) in THF (16.58 ml) was added 3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-one (2.00 g, 4.98 mmol). The suspension was cooled to 0° C. and (2-ethoxy-2-oxoethyl)zinc(II) bromide (149 ml, 14.93 mmol) was added drop wise. The reaction mixture was allowed to warm to RT and stirred 1 h. The reaction mixture was quenched with aqueous, half-saturated NaHCO3 solution (20 mL) and stirred for 30 min. The solution was filtered through a pad of celite and the filter cake was rinsed with EtOAc. The organic layer was separated and concentrated under reduced pressure to afford ethyl 2-(3-bromo-5-hydroxy-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate as a yellowish solid.

reactant | 3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-one | 4.98 mmol, 2.00 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C2=O)I | C12H5BrINO2
reactant | (2-ethoxy-2-oxoethyl)zinc(II) bromide | 14.93 mmol, 149 ml | [Br-].C(C)OC(C[Zn+])=O
solvent | THF | 16.58 ml | C1CCOC1 | C4H8O
catalyst | tetraethoxytitanium | 14.93 mmol, 3.40 g | C(C)O[Ti](OCC)(OCC)OCC
product | ethyl 2-(3-bromo-5-hydroxy-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C2(O)CC(=O)OCC)I | C16H13BrINO4
